US04898949
Ethyl 1-Methyl-5-tetrazolylacetate
To a solution of 1,5-dimethyltetrazole (10 g) in 100 mL of dry tetrahydrofuran and 20 mL of hexamethylphosphoramide at -78° C. (dry ice-acetone) under an argon atmosphere was added dropwise 50 mL (1.2 equivalent) of n-butyllithium (2.5M in hexane). The deprotonation of 1,5-dimethyltetrazole was allowed to proceed at -78° C. for 40 minutes, then at -20° C. for 30 minutes. The anion solution was rechilled to -78° C. and transferred via a cannula over a period of 45 minutes into a cold (-78° C.) solution containing 12 mL of ethyl chloroformate in 50 mL of tetrahydrofuran. The reaction mixture was diluted with aqueous 2N HCl and saturated aqueous solution of sodium chloride and then extracted with ethyl acetate. The residue from the organic extract was purified by silica gel flash chromatography. The appropriate fractions were combined and evaporated to give 4 g of product. The product was further purified by crystallization from ethyl acetate-hexanes to yield 3.52 g (21%) of the title compound; m.p.=64°-66° C.

reactant | 1,5-dimethyltetrazole | 10 g | CN1N=NN=C1C | C3H6N4
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | n-butyllithium | 2.5M, 50 mL, 1.2 equivalent | C(CCC)[Li]
reactant | ethyl chloroformate | 12 mL | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 20 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | HCl | 2N | Cl | ClH
solvent | sodium chloride | [Cl-].[Na+]
product | Ethyl 1-Methyl-5-tetrazolylacetate | 4 g | CN1N=NN=C1CC(=O)OCC | C6H10N4O2
